US05424305
The nickel acetate is added to the octaethylporphyrin solution; the mixture which results is refluxed for about 24 hours until the electronic spectrum of the reaction mixture indicates that chelation is complete. The reaction mixture is then concentrated to 7 mL and allowed to cool to room temperature of about 22°. Product which precipitates is recovered by filtration, dissolved in a mixed solvent composed of 5 mL dichloromethane and 2 mL methanol, and recrystallized, yielding Ni octaethylporphyrin.

reactant | nickel acetate | C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
reactant | octaethylporphyrin | C(C)C1=C(C=2C=C3C(=C(C(=CC=4C(=C(C(=CC5=C(C(=C(N5)C=C1N2)CC)CC)N4)CC)CC)N3)CC)CC)CC | C36H46N4
product | Ni octaethylporphyrin | [Ni].C(C)C1=C(C=2C=C3C(=C(C(=CC=4C(=C(C(=CC5=C(C(=C(N5)C=C1N2)CC)CC)N4)CC)CC)N3)CC)CC)CC | InChI=1S/C36H46N4.Ni/c1-9-21-22(10-2)30-18-32-25(13-5)26(14-6)34(39-32)20-36-28(16-8)27(15-7)35(40-36)19-33-24(12-4)23(11-3)31(38-33)17-29(21)37-30;/h17-20,37,40H,9-16H2,1-8H3;
